US04474774
2-Hydroxyacridone (3.17 grams; 0.015 mole) and acetic acid were charged into a glass reaction vessel equipped with a stirrer and thermometer. The mixture was cooled to 15° C. and a solution of chlorine (0.015 mole) in acetic acid (2.5 ml) was added dropwise with stirring. After the addition was completed stirring was continued at room temperature overnight. After this time the reaction mixture was filtered to recover product. The product was then washed, dried and dissolved in tetrahydrofuran (50 ml). The solution was treated with triethylamine (2 ml). The treated solution was then filtered and the filtrate treated with activated charcoal. The filtrate was then stripped of solvent in a rotary evaporator to yield chloro-2-hydroxyacridone m.p. 184°-191° C.

reactant | 2-Hydroxyacridone | 0.015 mole, 3.17 grams | OC1=CC=2C(C3=CC=CC=C3NC2C=C1)=O | C13H9NO2
reactant | chlorine | 0.015 mole | ClCl | Cl2
solvent | acetic acid | 2.5 ml | C(C)(=O)O | C2H4O2
product | chloro-2-hydroxyacridone | ClC1=C(C=CC=2NC3=CC=CC=C3C(C12)=O)O | C13H8ClNO2
